US09108934B2
(2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid
5-Hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid (59.0 mg, 287 μmol) and HCTU (131 mg, 316 μmol) were combined in DMF (1.3 mL, 17.2 mmol). and stirred at room temperature for 15 minutes. (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid 5-methyl-2-oxo[1,3]dioxol-4-ylmethyl ester (100 mg, 0.3 mmol) and DIPEA (150 μL, 862 μmol) were added, and the resulting mixture was stirred at room temperature for 15 minutes. The reaction was evaporated under reduced pressure. The residue was dissolved in EtOH and a solution of 1 M LiOH in water (1.4 mL, 1.4 mmol) was added. The resulting mixture was stirred at room temperature for 1 hour, then evaporated under reduced pressure. The residue was purified by preparative HPLC to yield the title compound (85 mg). MS m/z [M+H]+ calc'd for C26H23ClN4O5, 507.14. found 507.1.

reactant | 5-Hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carboxylic acid | 287 μmol, 59.0 mg | OC1=CC(=NN1C1=NC=CC=C1)C(=O)O | C9H7N3O3
reactant | HCTU | 316 μmol, 131 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC(Cl)=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 17.2 mmol, 1.3 mL | CN(C)C=O | C3H7NO
reactant | (2R,4R)-4-amino-5-(3′-chlorobiphenyl-4-yl)-2-hydroxypentanoic acid 5-methyl-2-oxo[1,3]dioxol-4-ylmethyl ester | 0.3 mmol, 100 mg | CC1=C(OC(O1)=O)COC([C@@H](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)N)O)=O | C22H22ClNO6
reactant | DIPEA | 862 μmol, 150 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | LiOH | 1 M | [Li+].[OH-]
reactant | water | 1.4 mmol, 1.4 mL | O | H2O
product | (2R,4R)-5-(3′-Chlorobiphenyl-4-yl)-2-hydroxy-4-[(5-hydroxy-1-pyridin-2-yl-1H-pyrazole-3-carbonyl)amino]pentanoic Acid | 85 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C[C@H](C[C@H](C(=O)O)O)NC(=O)C1=NN(C(=C1)O)C1=NC=CC=C1 | C26H23ClN4O5
